US07858784B2
2-iodo-2′,4′,6′-triisopropyl-3,6-dimethoxybiphenyl.
An oven-dried three-neck 500 mL round-bottom flask, which was equipped with a magnetic stir bar and charged with magnesium shavings (2.8 g, 116 mmol), was fitted with a reflux condenser, glass stopper, and rubber septum. The flask was purged with argon and then THF (100 mL) and 2,4,6-triisopropylbromobenzene (24.3 mL, 96 mmol) were added via syringe. The reaction mixture was heated to reflux and 1,2-dibromethane (40 uL) was added via syringe. The reaction was allowed to stir at reflux for 1.5 h and was then cooled to room temperature. A separate oven-dried 2 L round bottom flask, which was equipped with a magnetic stir bar and fitted with a septum, was purged with argon and then THF (500 mL) and 1,4-dimethoxy-2-fluorobenzene (7.49 g, 48 mmol) were added to the flask via syringe. The reaction mixture was cooled to −78° C. and n-BuLi (2.5 M in Hexane, 19.4 mL, 48.5 mmol) was added in a dropwise fashion over a 40 min period. The solution was stirred for 1 h and the Grignard reagent, which was prepared in the first reaction vessel, was added via cannula over a 30 min period and allowed to stir at −78° C. for 1 h. The reaction mixture was warmed to room temperature slowly where it was stirred for an additional 12 h. The mixture was then cooled to 0° C. and a solution of Iodine in THF (1 M, 96 mL, 96 mmol) was added via syringe over a 15 min period and then the dark red solution was warmed to room temperature and stirred for 1 h. The solvent was removed via a rotary evaporator, and the remaining dark brown oil was taken up in Et2O, washed with a saturated solution of sodium sulfite, and washed with brine. The organic layer was then dried over MgSO4, filtered, and the solvent was removed via rotary evaporator to give a yellow solid. The crude material was triturated with hexanes and filtered to give the desired product as an off-white solid (16.199 g, 72%, mp 189-191° C.). 1H NMR (300 MHz, CDCl3) δ: 7.07 (s, 2H), 6.90 (d, J=9.0 Hz, 1H), 6.81 (d, J=9.0 Hz, 1H), 3.90 (s, 3H), 3.67 (s, 3H), 2.98 (septet, J=7.0 Hz, 1H), 2.39 (septet, J=7.0 Hz, 2H), 1.33 (d, J=7.0 Hz, 6H), 1.20 (d, 7.0 Hz, 6H), 1.02 (d, J=7.0 Hz, 6H) ppm. 13C NMR (75 MHz, CDCl3) δ: 152.7, 152.5, 148.4, 145.9, 136.4, 136.1, 121.0, 110.3, 109.4, 96.6, 57.0, 55.8, 34.3, 31.1, 24.8, 24.3, 23.9 ppm. IR (neat, cm−1): 2957, 2865, 1567, 1460, 1428, 1257, 1032, 755. Anal. Calcd. for C23H31IO2: C, 59.23; H, 6.70. Found: C, 59.23; H, 6.72.

reactant | magnesium | 116 mmol, 2.8 g | [Mg] | Mg
reactant | 2,4,6-triisopropylbromobenzene | 96 mmol, 24.3 mL | C(C)(C)C1=C(C(=CC(=C1)C(C)C)C(C)C)Br | C15H23Br
reactant | 1,2-dibromethane | 40 uL | BrCCBr | C2H4Br2
reactant | 1,4-dimethoxy-2-fluorobenzene | 48 mmol, 7.49 g | COC1=C(C=C(C=C1)OC)F | C8H9FO2
reactant | n-BuLi | 48.5 mmol, 2.5 M, 19.4 mL | [Li]CCCC
reactant | Iodine | II | I2
solvent | THF | 500 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 96 mmol, 1 M, 96 mL | C1CCOC1 | C4H8O
product | 2-iodo-2′,4′,6′-triisopropyl-3,6-dimethoxybiphenyl | 16.199 g, 72% | IC1=C(C(=CC=C1OC)OC)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C | C23H31IO2
